US04622342
1-(4-Methoxyphenyl)propan-2-one (2.25 g) and 2-hydroxy-2-(3-fluorophenyl)ethanamine (2.13 g) were condensed ahd subsequently reduced with sodium borohydride (2.75 g) by an analogous procedure to that described in Example 1. The crude product was recrystallised from diethyl ether-hexane to give N-[2-(4-methoxyphenyl)-1-methylethyl]-2-hydroxy-2-(3-fluorophenyl)ethanamine, mp 85°-9° C., as a 37:63 mixture of diastereoisomers.

reactant | 1-(4-Methoxyphenyl)propan-2-one | 2.25 g | COC1=CC=C(C=C1)CC(C)=O | C10H12O2
reactant | 2-hydroxy-2-(3-fluorophenyl)ethanamine | 2.13 g | OC(CN)C1=CC(=CC=C1)F | C8H10FNO
reactant | sodium borohydride | 2.75 g | [BH4-].[Na+]
product | N-[2-(4-methoxyphenyl)-1-methylethyl]-2-hydroxy-2-(3-fluorophenyl)ethanamine | COC1=CC=C(C=C1)CC(C)NCC(C1=CC(=CC=C1)F)O | C18H22FNO2
